US06235786B1
3-(methylsulfonyl)amino-1-bromo-benzene
The m-bromo aniline was dissolved in 40 mL of pyridine and cooled to 0° C. followed by addition of methansulfonyl chloride dropwise via syringe. After 10 minutes, the solution was warmed to room temperature and stirred for 4 hours. Upon concentration the residue was partitioned between 350 mL of H2O and 500 mL of dichloromethane in a separatory funnel. The organics were separated and washed with 100 mL of 3N HCl, 200 mL of sat'd NaHCO3 and dried over MgSO4. Upon filtration and concentration in vacuo an off-white solid was obtained. This product was recrystallized from dichloromethane/hexanes to afford 6.7 g (90%) of the desired product as white needles.

reactant | m-bromo aniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | methansulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 3-(methylsulfonyl)amino-1-bromo-benzene | 6.7 g, 90% | CS(=O)(=O)NC=1C=C(C=CC1)Br | C7H8BrNO2S
